US07825128B2
(RS)—S-ethyl-S-(4-{[4-{[(S)-1-(hydroxymethyl)-3-methylbutyl]amino}-5-(3-thienyl)pyrimidine-2-yl]amino}phenyl)sulfoximide
In the reaction of (RS)—N-(ethoxycarbonyl)-S-ethyl-S-(4-{[4-{[(S)-1-(hydroxy-methyl)-3-methylbutyl]amino}-5-(3-thienyl)pyrimidine-2-yl]amino}phenyl)-sulfoximide (265 mg, 0.50 mmol) with sodium ethylate (70 mg, 1.0 mmol) according to procedure 14, the desired product is obtained in 34% yield (77 mg) after chromatographic purification (silica gel, dichloromethane/methanol (9/1)).

reactant | (RS)—N-(ethoxycarbonyl)-S-ethyl-S-(4-{[4-{[(S)-1-(hydroxy-methyl)-3-methylbutyl]amino}-5-(3-thienyl)pyrimidine-2-yl]amino}phenyl)-sulfoximide | 0.50 mmol, 265 mg | C(C)OC(=O)N=S(=O)(C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CC(C)C)CO)C1=CSC=C1)CC | C25H33N5O4S2
reactant | sodium ethylate | 1.0 mmol, 70 mg | CC[O-].[Na+]
product | (RS)—S-ethyl-S-(4-{[4-{[(S)-1-(hydroxymethyl)-3-methylbutyl]amino}-5-(3-thienyl)pyrimidine-2-yl]amino}phenyl)sulfoximide | 34% yield | C(C)S(=O)(=N)C1=CC=C(C=C1)NC1=NC=C(C(=N1)N[C@@H](CC(C)C)CO)C1=CSC=C1 | C22H29N5O2S2
